US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-(2-methylpentanoyl)thiourea
2-Methylpentanoyl isothiocyanate prepared according to the method 2 was dissolved in ethanol (1 ml) to prepare a solution. 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline (50 mg), toluene (5 ml), and ethanol (1 ml) were added to the solution, and the mixture was stirred at room temperature for 16 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (44 mg, yield 57%).

reactant | 2-Methylpentanoyl isothiocyanate | CC(C(=O)N=C=S)CCC | C7H11NOS
reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C16H15N3O3
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-(2-methylpentanoyl)thiourea | 44 mg, yield 57% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=S)NC(C(CCC)C)=O | C23H26N4O4S
